US04316861
370 Parts of 6-chloro-2,4-dinitroaniline are stirred for 4 hours at 80° C. in 2600 parts of toluene with 312 parts of chlorosulfonyl isocyanate. At 25° C., 360 parts of water are added to the resulting suspension of N-6-chloro-2,4-dinitrophenyl-N'-chlorosulfonyl urea without intermediate isolation, and the mixture is saponified at 60° C. within 4 hours to yield 6-chloro-2,4-dinitrophenyl urea. After diluting said mixture with water, it is neutralized with 33% sodium hydroxide solution, filtered while hot, and the product is thoroughly washed with hot toluene and water. After drying in vacuo, there are obtained 383 parts of 6-chloro-2,4-dinitrophenyl urea having a melting point of from 219° to 221° C.

reactant | 6-chloro-2,4-dinitroaniline | ClC1=CC(=CC(=C1N)[N+](=O)[O-])[N+](=O)[O-] | C6H4ClN3O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
solvent | water | O | H2O
product | 6-chloro-2,4-dinitrophenyl urea | ClC1=CC(=CC(=C1NC(=O)N)[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN4O5
